US04643758
A mixture of 4.0 g of 2-amino-3-cyano-4-(1,1-dimethylethyl)thiophene and 4.0 g of 2-methyl-4-chlorobutyryl chloride dissolved with 100 ml benzene was refluxed for about 72 hours. The solvent was evaporated under reduced pressure and the residue was chromatographed while eluting with a 90/10 mixture of Skellysolve B/ethyl acetate. Fractions containing the major component were combined and the solvent was evaporated therefrom to afford 3.75 g of 4-chloro-N-[3-cyano-4-(1,1-dimethylethyl)-2-thienyl]-2-methylbutanamide. mp=115°-116° C. Yield 57%.

reactant | 2-amino-3-cyano-4-(1,1-dimethylethyl)thiophene | 4.0 g | NC=1SC=C(C1C#N)C(C)(C)C | C9H12N2S
reactant | 2-methyl-4-chlorobutyryl chloride | 4.0 g | CC(C(=O)Cl)CCCl | C5H8Cl2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-chloro-N-[3-cyano-4-(1,1-dimethylethyl)-2-thienyl]-2-methylbutanamide | 3.75 g, Yield 57% | ClCCC(C(=O)NC=1SC=C(C1C#N)C(C)(C)C)C | C14H19ClN2OS
